US06040448
A solution of 1 g of 2-hydroxy-5,6,7,8-tetrahydroquinazoline and 0.1 g of diethylaniline in 10 mL of phosphorus oxychloride is refluxed for 2 h, and subsequently cooled and concentrated. The residue is taken up in chloroform and washed with excess 3 N NaOH solution. The organic layer is dried and concentrated to provide 2-chloro-5,6,7,8-tetrahydroquinazoline (1.1 g) as an orange solid.

reactant | 2-hydroxy-5,6,7,8-tetrahydroquinazoline | 1 g | OC1=NC=2CCCCC2C=N1 | C8H10N2O
reactant | diethylaniline | 0.1 g | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5,6,7,8-tetrahydroquinazoline | 1.1 g | ClC1=NC=2CCCCC2C=N1 | C8H9ClN2
